US04874894
To a mixture of 54.0 g (0.5 m) of anisole, 46.0 ml (0.5 m) of phosphorus oxychloride cooled to about 17° C., there was added slowly 51 g (0.525 m) of 100 percent sulfuric acid allowing the temperature to rise to approximately 29° C. at which temperature an external water bath was applied lowering the temperature to approximately 17° C. When the addition was complete, the water bath was removed and the temperature of the reaction mixture gradually rose to about 27° C. over approximately one hour and forty-five minutes. The reaction mixture was stirred overnight at ambient temperature. To the reaction mixture, 6.02 g of sodium chloride was added and the resulting mixture was heated to approximately 90° C. After approximately three and one half hours at about 90° C., the reaction mixture was cooled and poured slowly into a slurry of 500.0 g ice, 250.0 ml water and 41.6 g of sodium chloride. The solid which formed was collected by filtration, washed three times, each with 50.0 ml ice water and dried on the filter to obtain 94.9 g of 4-methoxybenzenesulfonyl chloride, a pink-white solid. The nuclear magnetic resonance spectrum was concordant with the assigned structure.

reactant | anisole | 54.0 g | C1(=CC=CC=C1)OC | C7H8O
reactant | phosphorus oxychloride | 46.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sulfuric acid | 51 g | S(O)(O)(=O)=O | H2O4S
product | 4-methoxybenzenesulfonyl chloride | 94.9 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
